US05116861
To the solution of N-t-butoxycarbonyl-S-trityl-L-penicillamylglycine ethyl ester (B-2) (4.5 g) and 2,6lutidine (2.8 ml) in dichloromethane (100 ml), was added dropwise at 0° C. the solution of trimethylsilyl trifluoromethanesulfonate (3.9 ml), and the mixture was stirred for 1 hour while the temperature was gradually returned to the room temperature. To the reaction mixture was added ice-water, and the organic layer was washed with 1N-hydrochloric acid, water, an aqueous solution of sodium hydrogencarbonate, water, and saturated saline, in this order, and dried over magnesium sulfate. The solvent was evaporated off under reduced pressure, to give S-trityl-L-penicillamylglycine ethyl ester (3.8 g)

reactant | N-t-butoxycarbonyl-S-trityl-L-penicillamylglycine ethyl ester | 4.5 g | C(C)OC(CNC([C@@H](NC(=O)OC(C)(C)C)C(C)(C)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C33H40N2O5S
reactant | 2,6lutidine | 2.8 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | trimethylsilyl trifluoromethanesulfonate | 3.9 ml | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | S-trityl-L-penicillamylglycine ethyl ester | 3.8 g | C(C)OC(CNC([C@@H](N)C(C)(C)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C28H32N2O3S
